US09421205B2
(c) 2-(2-(2-(2-((4-(1-(tert-Butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetic acid (I149)
To a solution of tert-butyl 3-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I148) (0.030 g, 0.050 mmol) in THF (7 mL), water (1.5 mL) and MeOH (1 mL) was added lithium hydroxide monohydrate (0.020 g, 0.48 mmol). The reaction mixture was stirred at room temperature for 17 hours then the volatiles were removed in vacuo and the residue was partitioned between ethyl acetate (10 mL) and saturated aqueous sodium hydrogen carbonate (10 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were washed with brine (10 mL), dried (MgSO4) then the solvent removed in vacuo to give the title compound (I149) (0.029 g, 99%) as a white solid. LCMS Method C: rt 5.50 min, m/z=586.1 [M+H]+, 584.2 [M−H]−.

reactant | tert-butyl 3-(4-((4-(2-(3-(2-methoxy-2-oxoethyl)pyridin-2-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.050 mmol, 0.030 g | COC(CC=1C(=NC=CC1)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C31H36F3N5O4
reactant | lithium hydroxide monohydrate | 0.48 mmol, 0.020 g | O.[OH-].[Li+]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(2-(2-(2-((4-(1-(tert-Butoxycarbonyl)piperidin-3-yl)phenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)pyridin-3-yl)acetic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)CCC1=NC=CC=C1CC(=O)O)C(F)(F)F | C30H34F3N5O4
